Test of EKV
* This one sweeps Vd and creates curves of select Vg, allowing us to plot
* drain current as function of drain voltage. 
*

.include "150nm.mod"
M1 D G S B NMOS150 W=150e-9 L=150e-9  NF=1

Vg G Ga DC .5v AC 1
Vgprobe 0 Ga 0
Vd 1 Da DC 1v
Ldrain 1 D 1m
Cdrain D 0 1m
*Rdrain 2 0 1
Vdprobe 0 Da 0
Vs S Sa DC 0v
Vsprobe 0 Sa 0
Vb B Ba DC 0v
Vbprobe 0 Ba 0

.options device temp=25
.noise V(D) vg dec 11 1k 100g 1

* Verify that case does not matter in the device names or noise type names
* for the DNO and DNI operators.
.print noise {sqrt(abs(inoise))} {pow(abs(onoise),1/3)}
+ {pow(abs(DNO(M1,flicker_b_gnd)),1/3)}
+ {pow(abs(DNO(M1,flicker_di_si_flicker_noise_in_channel_internal_nodes_#2)),1/3)}
+ {pow(abs(DNO(M1,flicker_g_gnd_gate_flicker_noise)),1/3)}
+ {pow(abs(DNO(M1,white_d_di)),1/3)}
+ {pow(abs(DNO(M1,white_di_si)),1/3)}
+ {pow(abs(DNO(M1,white_di_si_thermal_noise_in_channel_internal_nodes_#2)),1/3)}
+ {pow(abs(DNO(M1,white_g_gnd_gate_shot_noise)),1/3)}
+ {pow(abs(DNO(M1,white_noi_gnd)),1/3)}
+ {pow(abs(DNO(M1,white_s_si)),1/3)}
+ {pow(abs(DNO(m1)),1/3)}
+ {pow(abs(DNI(M1,flicker_b_gnd)),1/3)}
+ {pow(abs(DNI(M1,flicker_di_si_flicker_noise_in_channel_internal_nodes_#2)),1/3)}
+ {pow(abs(DNI(M1,flicker_g_gnd_gate_flicker_noise)),1/3)}
*+ {pow(abs(DNI(M1,white_d_di)),1/3)}
+ {pow(abs(DNI(M1,white_di_si)),1/3)}
+ {pow(abs(DNI(M1,white_di_si_thermal_noise_in_channel_internal_nodes_#2)),1/3)}
+ {pow(abs(DNI(M1,white_g_gnd_gate_shot_noise)),1/3)}
+ {pow(abs(DNI(M1,white_noi_gnd)),1/3)}
*+ {pow(abs(DNI(M1,white_s_si)),1/3)}
+ {pow(abs(DNI(m1)),1/3)}

.end
