* source FSOURCETEST

* test that case does not matter in F-Source.  The funky
* subckt definition is how ORCAD capture made this circuit
X_F1         N385945 N385872 N385703 0 SCHEMATIC1_F1
R_R5         0 N385872  1 TC1=0 TC2=0
R_R6         0 N385703  1 TC1=0 TC2=0
V_V4         N385945 0  AC 1
+SIN 0V 1V 1e6 0 0 0

.subckt SCHEMATIC1_F1 1 2 3 4
F_F1         3 4 VF_F1 2
*VF_F1        1 2 0V
vf_f1       1 2 0V
.ends SCHEMATIC1_F1

* test the POLY form of the F-source, using the syntax in the
* PSpice Reference Guide
R_R8         0 N397302  1 TC1=0 TC2=0
R_R9         0 N387774  1 TC1=0 TC2=0
V_V5         N397302 0  AC 1
+SIN 0V 2V 1e6 0 0 0

F_F2 N387774 0 POLY(1) V_V5 0 2
