* source HSOURCETEST

R_R12         0 N390186  1 TC1=0 TC2=0
R_R13         0 N390144  1 TC1=0 TC2=0
V_V7         N390192 0  AC 1
+SIN 0V 1V 1e6 0 0 0
X_H1    N390192 N390186 N390144 0 SCHEMATIC1_H1

.subckt SCHEMATIC1_H1 1 2 3 4
H_H1         3 4 VH_H1 2
VH_H1         1 2 0V
.ends SCHEMATIC1_H1

* test the POLY form of the H-source, using the syntax in the
* PSpice Reference Guide
R_R14         0 N390338  1 TC1=0 TC2=0
V_V8         N390338 0  AC 1
+SIN 0V 2V 1e6 0 0 0
R_R15         0 N390388  1 TC1=0 TC2=0

H_H2 N390388 0 POLY(1) V_V8 0 2
