* voltage controlled sources
* Xyce netlist for corresponding HSPICE netlist
* This netlist test XDM will strip out the extra
* identifiers in the voltage controlled sources 
* (VCVS and VCCS) that can appear in HSPICE.


VA IN 0 DC 0
E1 1 0 IN 0 2
R1 1 2 10
R2 2 0 10
E2 3 0 IN 0 1
R3 3 4 10
R4 4 0 10
G1 5 0 IN 0 -0.1
R5 5 6 10
R6 6 0 10
G2 7 0 IN 0 -0.2
R7 7 8 10
R8 8 0 10


.DC VA 0 10 1
.PRINT DC FORMAT=PROBE v(in) v(2) v(4) v(6) v(8)
