* This netlist tests various PSpice syntaxes for I-Sources
* This tests SRN Bug 1987.

*Analysis directives:
.TRAN  0.1ms 1ms
.PRINT TRAN I(R_R1) I(R_R2) I(R_R3) I(R_R4)

*AC Source syntaxes
R_R1        1 0  1k TC1=0 TC2=0
I_I1        1 0  AC 1
+SIN 0 1 1KHz 0 0 0

* DC source syntaxes
R_R2        2 0  1k TC1=0 TC2=0
I_I2        2 0  5Vdc

R_R3        3 0  1k TC1=0 TC2=0
I_I3        3 0  DC=1

R_R4        4 0  1k TC1=0 TC2=0
I_I4        4 0  DC 1

.END
