* HSPICE netlist for testing mixed current sources

.TRAN 0.1ms 1ms
.PRINT TRAN V(1) V(2) I(R2)

IIN 1 0 0.5 AC 1 SIN 0 1 1kHz 0 0 0
R1 1 2 100
R2 2 0 75

.END
