* HSPICE netlist for testing mixed current sources

.TRAN 0.001ms 0.5ms
.PRINT TRAN V(1) V(2) I(R2)

IPULSE 1 0 pulse( 0mA 2mA 5us 5us 5us 20us 50us )
R1 1 2 100
R2 2 0 75

.END
