* HSPICE netlist for testing voltage sources with AC magnitude and phase

.TRAN 1ms 1s
.PRINT TRAN V(1) V(2) I(R2)

VIN 1 0 AC=10V,90
R1 1 2 100
R2 2 0 75

.END
